// Generated for: spectre
// Generated on: Jun 18 11:07:14 2026
// Design library name: SAR9B_400MV
// Design cell name: TB_SUBMOD_BOOTSTRAP_DIFF_PERF
// Design view name: schematic
simulator lang=spectre
global 0
parameters cload=5f vdiff=100m vcm=450m vdd=800m
include "/home/IC/Desktop/Project/project_tsmcN28_NEW/project_tsmcN28_NEW/iPDK_CRN28HPC+_v1.0_2p2a_20160226_all/CRN28HPCp/models/spectre/toplevel.scs" section=top_tt

// Library name: SAR9B_400MV
// Cell name: BOOTSTRAP_DIFF
// View name: schematic
subckt BOOTSTRAP_DIFF CLKS CLKSB VDD VIN VIP VOUTN VOUTP VSS
    M35 (VIP VSS VOUTN VSS) nch_mac l=30n w=1u multi=2 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M34 (VIN VSS VOUTP VSS) nch_mac l=30n w=1u multi=2 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M32 (net6 CLKSB VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n \
        ad=3e-14 as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M31 (NG VDD net6 VSS) nch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=2.828877 \
        nrs=2.828877 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M27 (net4 CLKS B B) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M26 (net4 NG B VSS) nch_mac l=30n w=210.0n multi=1 nf=1 sd=100n \
        ad=1.575e-14 as=1.575e-14 pd=570.0n ps=570.0n nrd=1.295520 \
        nrs=1.295520 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M25 (B NG VIN VSS) nch_mac l=30n w=500n multi=1 nf=1 sd=100n \
        ad=3.75e-14 as=3.75e-14 pd=1.15u ps=1.15u nrd=0.662935 \
        nrs=0.662935 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M24 (B CLKSB VSS VSS) nch_mac l=30n w=2u multi=1 nf=2 sd=100n ad=1e-13 \
        as=1.5e-13 pd=2.2u ps=4.3u nrd=0.185844 nrs=0.185844 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M23 (VIN NG VOUTN B) nch_mac l=30n w=1u multi=2 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M9 (VIP PG VOUTP A) nch_mac l=30n w=1u multi=2 nf=1 sd=100n ad=7.5e-14 \
        as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M8 (A PG VIP VSS) nch_mac l=30n w=500n multi=1 nf=1 sd=100n \
        ad=3.75e-14 as=3.75e-14 pd=1.15u ps=1.15u nrd=0.662935 \
        nrs=0.662935 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M7 (net1 PG A VSS) nch_mac l=30n w=210.0n multi=1 nf=1 sd=100n \
        ad=1.575e-14 as=1.575e-14 pd=570.0n ps=570.0n nrd=1.295520 \
        nrs=1.295520 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M5 (net2 CLKSB VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n \
        ad=3e-14 as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M4 (PG VDD net2 VSS) nch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=2.828877 \
        nrs=2.828877 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M3 (A CLKSB VSS VSS) nch_mac l=30n w=2u multi=1 nf=2 sd=100n ad=1e-13 \
        as=1.5e-13 pd=2.2u ps=4.3u nrd=0.185844 nrs=0.185844 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M0 (net1 CLKS A A) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M33 (net6 CLKSB VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 \
        nrs=1.688887 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M30 (VDD NG net5 net5) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M29 (NG net4 net5 net5) pch_mac l=30n w=500n multi=1 nf=1 sd=100n \
        ad=3.75e-14 as=3.75e-14 pd=1.15u ps=1.15u nrd=0.383209 \
        nrs=0.383209 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M28 (net4 CLKS VDD VDD) pch_mac l=30n w=800n multi=1 nf=1 sd=100n \
        ad=6e-14 as=6e-14 pd=1.75u ps=1.75u nrd=0.214332 nrs=0.214332 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M12 (net2 CLKSB VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 \
        nrs=1.688887 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M6 (PG net1 net3 net3) pch_mac l=30n w=500n multi=1 nf=1 sd=100n \
        ad=3.75e-14 as=3.75e-14 pd=1.15u ps=1.15u nrd=0.383209 \
        nrs=0.383209 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M2 (VDD PG net3 net3) pch_mac l=30n w=2u multi=1 nf=2 sd=100n ad=1e-13 \
        as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (net1 CLKS VDD VDD) pch_mac l=30n w=800n multi=1 nf=1 sd=100n \
        ad=6e-14 as=6e-14 pd=1.75u ps=1.75u nrd=0.214332 nrs=0.214332 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    C2 (net5 B) cfmom_2t nr=70 lr=10u w=50n s=50n stm=1 spm=7 multi=1
    C0 (net3 A) cfmom_2t nr=70 lr=10u w=50n s=50n stm=1 spm=7 multi=1
ends BOOTSTRAP_DIFF
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: TB_SUBMOD_BOOTSTRAP_DIFF_PERF
// View name: schematic
VVIN (VIN VSS) vsource dc=vcm-vdiff/2 type=dc
VVIP (VIP VSS) vsource dc=vcm+vdiff/2 type=dc
VSS_SRC (VSS 0) vsource dc=0 type=dc
VDD_SRC (VDD VSS) vsource dc=vdd type=dc
XBOOT (CLKS CLKSB VDD VIN VIP VOUTN VOUTP VSS) BOOTSTRAP_DIFF
VCLKSB (CLKSB VSS) vsource type=pulse val0=vdd val1=0 period=5n delay=500p \
        rise=5p fall=5p width=2n
VCLKS (CLKS VSS) vsource type=pulse val0=0 val1=vdd period=5n delay=500p \
        rise=5p fall=5p width=2n
C_VOUTN (VOUTN VSS) capacitor c=cload
C_VOUTP (VOUTP VSS) capacitor c=cload
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf
tran tran stop=12n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save CLKS CLKSB VIP VIN VOUTP VOUTN
saveOptions options save=allpub
